US04237067
103.1 g (1.0 mole) of 3-methoxypropionamide are heated with 194.6 g (1.05 mole) of dodecylamine in a temperature range of 130°-170° C. until the evolution of ammonia is complete. The mixture is allowed to cool, 1.5 g of sodium hydroxide is added and the mixture is heated in a high vacuum at 90° to 110° C. The methanol is split off within about 30 minutes, vigorous foaming occurring. The temperature is increased and 172.4 g (0.72 mole=72% of the theoretical yield) of N-dodecylacrylamide having a Bp0.1 of 165°-170° C., which solidifies into crystalline form in the receiver, are distilled off.

reactant | 3-methoxypropionamide | 1.0 mole, 103.1 g | COCCC(=O)N | C4H9NO2
reactant | dodecylamine | 1.05 mole, 194.6 g | C(CCCCCCCCCCC)N | C12H27N
reactant | ammonia | N | H3N
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
product | N-dodecylacrylamide | C(CCCCCCCCCCC)NC(C=C)=O | C15H29NO
